US03931301
4.6 g of 2-(methylamino-acetamido)-5-chlorobenzophenone hydrochloride were heated in 100 mls. of dry xylene with 3 g of triethylamine and 1.9 g of chloracetic acid for 8 hours under reflux whilst stirring. After cooling, the precipitated triethylamine hydrochloride was filtered off and the filtrate was shaken 3 times with 100 mls. of water each time. After drying over potassium carbonate and filtering, it was concentrated in vacuo, the oily crude base obtained being dissolved in 100 mls. of dry ether and filtered again. By passing in dry hydrogen chloride gas, filtering under suction and drying in a vacuum desiccator, 2.8 g (71% of theory) of 2-(4-carboxy-3-methyl-3-aza-butyramido)-5-chlorobenzophenone hydrochloride were obtained with a melting point of 162°-164°.

reactant | 2-(methylamino-acetamido)-5-chlorobenzophenone hydrochloride | 4.6 g | Cl.CNCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | chloracetic acid | 1.9 g | ClCC(=O)O | C2H3ClO2
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | 2-(4-carboxy-3-methyl-3-aza-butyramido)-5-chlorobenzophenone hydrochloride | 2.8 g, 71% | Cl.C(=O)(O)CN(CC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)C | InChI=1S/C18H17ClN2O4.ClH/c1-21(11-17(23)24)10-16(22)20-15-8-7-13(19)9-14(15)18(25)12-5-3-2-4-6-12;/h2-9H,10-11H2,1H3,(H,20,22)(H,23,24);1H
